US07446222B2
a) 2′-Bromo-biphenyl-3-carboxylic acid ethyl ester
A mixture of 1,2-dibromobenzene (0.63 ml, 5.2 mmol), (3-ethoxycarbonylphenyl)boronic acid (506 mg, 2.6 mmol), tetrakis(triphenylphosphine)palladium(0) (640 mg, 0.6 mmol) and potassium carbonate (2.879 g, 20.9 mmol) was heated in toluene-ethanol (1:1, 10 ml at 90° C. for 3 hours. Upon cooling, the mixture was diluted with ethyl acetate and water. The layers were separated and the aqueous phase was extracted with ethyl acetate. The combined extracts were dried (Na2SO4), filtered and concentrated. The residue was purified by chromatography using Biotage with iso-hexane containing a gradient of DCM (2-15%) to yield the title compound (538 mg, 34%).

reactant | 1,2-dibromobenzene | 5.2 mmol, 0.63 ml | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | (3-ethoxycarbonylphenyl)boronic acid | 2.6 mmol, 506 mg | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | potassium carbonate | 20.9 mmol, 2.879 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene-ethanol | C=1(C(=CC=CC1)CCO)C | C9H12O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.6 mmol, 640 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Bromo-biphenyl-3-carboxylic acid ethyl ester | 538 mg, 34% | C(C)OC(=O)C=1C=C(C=CC1)C1=C(C=CC=C1)Br | C15H13BrO2
